US07476742B2
Ethyl (4-methyl-2-phenyl-1,3-oxazol-5-yl)acetate (0.922 g, 3.76 mmol) in THF (6 mL) at rt was added LiBH4 (2M/THF, 9.41 mL, 4.70 mmol). The reaction was stirred overnight at rt, then treated with 2N HCl until pH 7. The solvent THF was removed under reduced pressure, EtOAc was added, and phases separated. The combined organics extracts were dried over MgSO4 and solvent concentrated in vacuo. The crude material was purified by Biotage using a gradient of 10 to 100% EtOAc/Hexane as solvent mixture. Gave 2-(4-methyl-2-phenyl-1,3-oxazol-5-yl)ethanol (0.193 g, 25% yield) as colorless oil. ES-MS m/z 204.2 (MH)+); HPLC RT (min) 2.02; 1H NMR (Acetone-d6) δ 7.98-7.95 (m, 2H), 7.52-7.42 (m, 3H), 3.95 (s br, 1H), 3.82 (t, 2H)m, 2.90 (t, 2H), 2.13 (s, 3H).

reactant | Ethyl (4-methyl-2-phenyl-1,3-oxazol-5-yl)acetate | 3.76 mmol, 0.922 g | CC=1N=C(OC1CC(=O)OCC)C1=CC=CC=C1 | C14H15NO3
reactant | LiBH4 | 4.70 mmol, 2M, 9.41 mL | [Li+].[BH4-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 2-(4-methyl-2-phenyl-1,3-oxazol-5-yl)ethanol | 0.193 g, 25% yield | CC=1N=C(OC1CCO)C1=CC=CC=C1 | C12H13NO2
